US09388195B2
B) Production of 6-bromo-2-[phenyl(pyrrolidin-1-yl)methyl]thieno[3,2-d]pyrimidin-4 (3H)-one
A mixture of 5-bromo-3-{[phenyl(pyrrolidin-1-yl)acetyl]amino}thiophene-2-carboxamide (320 mg), 2M aqueous sodium hydroxide solution (3 mL) and 1,2-dimethoxyethane (1 mL) was stirred with heating in a microwave reactor at 150° C. for 30 min. The mixture was extracted with ethyl acetate and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate/hexane and methanol/ethyl acetate) to give the title compound (292 mg) as a pale-yellow solid.

reactant | 5-bromo-3-{[phenyl(pyrrolidin-1-yl)acetyl]amino}thiophene-2-carboxamide | 320 mg | BrC1=CC(=C(S1)C(=O)N)NC(C(N1CCCC1)C1=CC=CC=C1)=O | C17H18BrN3O2S
reactant | sodium hydroxide | 2M, 3 mL | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 1 mL | COCCOC | C4H10O2
product | 6-bromo-2-[phenyl(pyrrolidin-1-yl)methyl]thieno[3,2-d]pyrimidin-4 (3H)-one | 292 mg | BrC1=CC=2N=C(NC(C2S1)=O)C(N1CCCC1)C1=CC=CC=C1 | C17H16BrN3OS
